US05648270
A solution of 9-aminoanthracene (1.0 g, 5.1 mmoles) in 20 mL acetonitrile is combined with 2-picolyl chloride (2.0 g, 12.7 moles), sodium iodide (0.9 g, 6 mmoles) and N,N-diisopropylethylamine (2.8 g, 20.4 mmoles and the resulting solution is heated at reflux for 16 hours. The resulting dark solution is evaporated and crystallized from 30 mL methanol to give the bispyridyl-anthracene as a dark solid (1.6 g, 83% yield). Using completely analogous methods, other fluorescent bis-pyridyl indicators can be synthesized starting with a variety of amine-containing fluorescent dyes, such as 7-aminocoumarin-4-acetic acid and 1-aminopyrene.

reactant | 9-aminoanthracene | 5.1 mmoles, 1.0 g | NC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H11N
reactant | 2-picolyl chloride | 12.7 moles, 2.0 g | N1=C(C=CC=C1)CCl | C6H6ClN
reactant | sodium iodide | 6 mmoles, 0.9 g | [I-].[Na+]
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
product | bispyridyl-anthracene | 1.6 g, 83% yield | N1=C(C=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=NC=CC=C1 | C24H16N2
